* gnetlist -g spice-noqsi -o test_Gm2.net test_Gm2.sch Gm2.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.subckt GM2 9 5
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
.GLOBAL Vdd Vss
.INCLUDE Gm2.net
.PARAM SUPPLY=3.3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
Cout GND 1 1n      
Vin Vin GND AC 1m
V_IP_out 2 1 DC 0V  
M4 g3 g3 3 3 P1  l=1u w=3u         
M3 5 g3 4 4 P1  l=1u w=3u         
M5 5 7 6 6 N1  l=3u w=3u         
M6 g3 9 8 8 N1  l=3u w=3u         
I2 10 Vss 4uA
I1 11 Vss 4uA
Vb 7 Vss 1.8V
Rs 11 10 10k      
*
*
V_IP6 8 10 DC 0V  
V_IP5 6 11 DC 0V  
V_IP4 Vdd 3 DC 0V  
V_IP3 Vdd 4 DC 0V  
.control
ac lin 100 1 10G
plot Vin
.endc

.ENDS
