* gnetlist -L ../.. -g spice-noqsi -o test_Gm2.net test_Gm2.sch
* SPICE file generated by spice-noqsi version 20170819
* Send requests or bug reports to jpd@noqsi.com
Vs Vss GND 0V
Vin Vin GND DC 1.8V AC 1V
Vd Vdd GND 'SUPPLY'
V_IP_out 1 2 DC 0V  
XU2 Vin 1 GM2
Cout GND 2 1n      
.PARAM SUPPLY=3.3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
.GLOBAL Vdd Vss
.INCLUDE Gm2.net
.control
ac lin 100 1 10G
let Gm=(i(v_ip_out))/Vin
plot Gm
print Gm > Transconductance_of_GM2.log
.endc

