* gnetlist -L ../.. -g spice-noqsi -o test_Gm2.net test_Gm2.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
XU2 Vin Gm2_out GM2
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
.GLOBAL Vdd Vss
.INCLUDE Gm2.net
.PARAM SUPPLY=3.3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
Vin Vin GND DC 1.8V AC 1V
Cout GND Cout 1n      
R1 GND Cout 100G      
V_IP_out Cout Gm2_out DC 0V  
.control
ac lin 100 1 10G
let Gm=(i(v_ip_out))/Vin
plot Gm
print Gm > Transconductance_of_GM2.log
.endc

